US07812050B2
3-Fluoro-7-(2,2,2-trifluoroethoxy)phenoxathiin can be prepared according to the teachings provided herein and the knowledge in the art. Briefly, treating 5-(2,2,2-trifluoroethoxy)-2-mercaptophenol with base followed by addition of 1,4-difluoro-2-nitrobenzene can afford 3-fluoro-7-(2,2,2-trifluoroethoxy)phenoxathiin. For example, 5-(2,2,2-trifluoroethoxy)-2-mercaptophenol can be combined with potassium tert-butoxide followed by combination with 1,4-difluoro-2-nitrobenzene which upon heating can afford 3-fluoro-7-(2,2,2-trifluoroethoxy)phenoxathiin. In an exemplary embodiment, the solvent used to dissolve potassium tert-butoxide and 1,4-difluoro-2-nitrobenzene can be anhydrous N,N-dimethylformamide. For example, 5-(2,2,2-trifluoroethoxy)-2-mercaptophenol dissolved in a THF/MTBE mixture can be added to potassium tert-butoxide in N,N-dimethylformamide; subsequent to their combination, under the conditions disclosed herein, the mixture can then be treated with 1,4-difluoro-2-nitrobenzene dissolved in N,N-dimethylformamide.

reactant | 5-(2,2,2-trifluoroethoxy)-2-mercaptophenol | FC(COC=1C=CC(=C(C1)O)S)(F)F | C8H7F3O2S
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 1,4-difluoro-2-nitrobenzene | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
product | 3-fluoro-7-(2,2,2-trifluoroethoxy)phenoxathiin | FC=1C=CC=2SC3=CC=C(C=C3OC2C1)OCC(F)(F)F | C14H8F4O2S
